US06977267B2
Using the same procedure as in Example 1 starting from 1-bromo-4-(1,4-dibromobutyl)benzene (423 mg, 1.1 mmol) (Preparation 4) and 3-(3,5-dichlorophenyl)-4-oxo-2-thioxoimidazolidine-1-carboxylic acid tert-butyl ester (361 mg, 1 mmol) (Preparation 9), (5R*,6S*)-6-(4-bromophenyl)-3-(3,5-dichlorophenyl)-4-oxo-2-thioxo-1,3-diazaspiro[4.4]nonane-1-carboxylic acid tert-butyl ester was obtained (54 mg) as a white solid. 1H NMR (CDCl3): 7.49 (2H, d, J=8.4 Hz), 7.33 (1H, m), 7.09 (2H, d, J=8.4 Hz), 6.22 (2H, m), 4.17 (1H, dd, J1=13.2 Hz, J2=5.4 Hz), 2.35-2.6 (3H, m), 2-2.35 (3H, m), 1.69 (9H, s).

reactant | 1-bromo-4-(1,4-dibromobutyl)benzene | 1.1 mmol, 423 mg | BrC1=CC=C(C=C1)C(CCCBr)Br | C10H11Br3
reactant | 3-(3,5-dichlorophenyl)-4-oxo-2-thioxoimidazolidine-1-carboxylic acid tert-butyl ester | 1 mmol, 361 mg | C(C)(C)(C)OC(=O)N1C(N(C(C1)=O)C1=CC(=CC(=C1)Cl)Cl)=S | C14H14Cl2N2O3S
product | (5R*,6S*)-6-(4-bromophenyl)-3-(3,5-dichlorophenyl)-4-oxo-2-thioxo-1,3-diazaspiro[4.4]nonane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(N(C([C@@]12[C@@H](CCC2)C2=CC=C(C=C2)Br)=O)C2=CC(=CC(=C2)Cl)Cl)=S | C24H23BrCl2N2O3S
